US05693635
N-[4-[(2-Chloro-4,5-dihydro-6H-thieno[3,2-d][1]benzazepin-6-yl)carbonyl]phenyl]-2-methyl-3-fluorobenzamide
To a solution of 0.457 g (1.0 mmol) of N-[4-[(4,5-dihydro-6H-thieno[3,2-d][1]benzazepin-6-yl)carbonyl]phenyl]-2-methyl-3-fluorobenzamide in 25 ml of ethyl acetate is added 1.0 mmol of N-chlorosuccinimide. The mixture is stirred overnight and filtered. The filtrate is washed with water, 1N HCl, 1M NaHCO3, H2O and dried (Na2SO4). The solvent is removed to give the product as a solid.

reactant | N-[4-[(4,5-dihydro-6H-thieno[3,2-d][1]benzazepin-6-yl)carbonyl]phenyl]-2-methyl-3-fluorobenzamide | 1.0 mmol, 0.457 g | S1C=CC=2CCN(C3=C(C21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C(=CC=C3)F)C)=O | C27H21FN2O2S
reactant | N-chlorosuccinimide | 1.0 mmol | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | N-[4-[(2-Chloro-4,5-dihydro-6H-thieno[3,2-d][1]benzazepin-6-yl)carbonyl]phenyl]-2-methyl-3-fluorobenzamide | ClC1=CC=2CCN(C3=C(C2S1)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C(=CC=C3)F)C)=O | C27H20ClFN2O2S
